US07521425B2
Step 1: 6-(4-Nitro-phenyl)-hexane-2,4-dione (11)
To a reaction vessel (heat and vacuum dried and equipped with a magnetic spin bar) was added tetrahydrofuran and lithium diisopropylamide (2M heptane/ethylbenzene/tetrahydrofuran; 69.4 mL, 138.9 mmol). The solution cooled to −78° C. Pentane-2,4-dione (7.13 mL, 69.4 mmol) was added dropwise and the solution stirred 30 minutes at −78° C. 4-nitrobenzyl bromide (15.0 g, 69.4 mmol) was added in one portion. The solution was removed from the dry-ice/acetone bath, allowed to warm to room temperature and stirred 16 hours. The solution was cooled to approximately 0° C. and the reaction quenched with 1 M HCl. Tetrahydrofuran was removed under reduced pressure. The crude material was taken up into dichloromethane and washed with 1M HCl and brine. The aqueous layers were again washed with dichloromethane. The combined dichloromethane layers were dried (Na2SO4) and removed under reduced pressure. Gradient flash column chromatography (FCC) was performed using 5% to 15% ethyl acetate/hexanes to afford title compound (8.5 g, 52%; yellow solid). 1H NMR (CDCl3): δ 8.14 (d, J=9.0 Hz, 2 H), δ 7.43 (d, J=8.4 Hz, 2 H), δ 5.45 (s, 1H), δ 3.06 (t, J=7.5 Hz, 2H), δ 2.64 (t, J=7.8 Hz, 2H), δ 2.04 (s, 3H).

reactant | lithium diisopropylamide | 138.9 mmol, 2M, 69.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Pentane-2,4-dione | 69.4 mmol, 7.13 mL | CC(CC(C)=O)=O | C5H8O2
reactant | 4-nitrobenzyl bromide | 69.4 mmol, 15.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(4-Nitro-phenyl)-hexane-2,4-dione | 8.5 g, 52% | [N+](=O)([O-])C1=CC=C(C=C1)CCC(CC(C)=O)=O | C12H13NO4
